Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Bactrim / Codeine
 
Attending: ___.
 
Chief Complaint:
R knee hematoma/pain/swelling
 
Major Surgical or Invasive Procedure:
R knee/thigh I&D/arthrotomy

 
History of Present Illness:
This is a ___ year old gentleman with HIV (last CD4 210, VL
150,000 per patient), followed at ___, restarted on HAART 3
weeks ago, who initially presented with right thigh and knee 
pain
and swelling as well as fevers and is now found to have septic
arthritis of the right knee.

His current series of events began ___ weeks ago when he
was struck twice on the right thigh by a dishcart (he works in a
restaurant). He developed immediate pain afterwards which he
treated by icing it and with ibuprofen. He was seen in the ED 
and
placed in an air cast which he wore for the next 3.5 weeks. The
injury did not break the skin as far as he is aware.

He subsequently developed a large bruise which became
increasingly swollen and painful. He was then seen about 10 days
ago by his PCP and told to stop wearing the air cast. By the 
next
morning the leg had become significantly more swollen. He
developed fevers to 102.8 at home which he felt were likely due
to the pain and thus did not seek further evaluation at that
time. The fevers broke when he iced his knee. His pain continued
to get worse however and he continued to have fevers. He reports
not being able to bend his knee since the initial injury. 

He finally presented to the ED on ___. Imaging in the ED was
suboptimal due to patient pain but showed a massive soft tissue
density in the anterior thigh with a broad differential 
including
hematoma. His knee was aspirated and irrigated with fluid 
showing
WBC of 192,500 with 92% PMNs and 111 RBCs. Labs showed WBC count
10.0, ESR 128, and CRP of 217.9.

 
Past Medical History:
HIV, diagnosed ___, restarted on HAART ___
GERD
seizure
s/p ORIF L elbow 
Transaminits with biopsy suggesting fatty liver
Shingle and chicken pox
PTSD
Anxiety

 
Social History:
___
Family History:
His mother is deceased at age ___ from lung cancer.  She was also 
a heavy drinker.  His father is deceased at age ___ from suicide. 
 He has no brothers and no sisters.

 
Physical Exam:
VS: Tm 101.0 Tc 98.1 128/72 64 20 100/3L\
General: NAD  
EENT: EOM grossly intact, sclerae anicteric, moist mucous
membranes
CV: RRR, II/VI SEM (which he has previously been told he has), 
no
rubs or gallops  
Pulmonary: clear to auscultation bilaterally w/o wheezes /
rhonchi / rales  
Extremities: right thigh and knee extensively wrapped with drain
collecting serosanguinous fluid, appear warm and well perfused, 
SKIN: no rashes, no jaundice  
NEURO: awake, alert and oriented x3, CN grossly intact, 
sensation
intact in lower extremities bilaterally
PSYCH: irritable, non-anxious, oherwise normal affect

 
Pertinent Results:
___ 04:20PM BLOOD WBC-10.0# RBC-3.44*# Hgb-10.4*# 
Hct-28.7*# MCV-84 MCH-30.2 MCHC-36.2* RDW-13.9 Plt ___
___ 05:15AM BLOOD WBC-6.9 RBC-3.32* Hgb-9.9* Hct-28.3* 
MCV-85 MCH-29.9 MCHC-35.1* RDW-14.7 Plt ___
___ 04:20PM BLOOD Neuts-87.5* Bands-0 Lymphs-6.4* Monos-3.4 
Eos-2.3 Baso-0.4
___ 04:20PM BLOOD ESR-128*
___ 06:35AM BLOOD Glucose-98 UreaN-10 Creat-0.7 Na-134 
K-3.9 Cl-101 HCO3-24 AnGap-13
___ 06:20AM BLOOD ALT-61* AST-71* LD(LDH)-156 AlkPhos-72 
TotBili-1.6*
___ 04:20PM BLOOD CRP-217.9*
 
Brief Hospital Course:
Mr ___ was admitted to the orthopaedics service from the 
ED on ___.  On ___ he went to the OR for the above 
listed procedure.  Please read the operative note for more 
detail.  After being extubated, he was taken to the PACU where 
he did well and was then taken to the floor.  His pain was well 
controlled while on the floor and the tolerated a regular diet.  
After verifying a set of blood cultures negative for at least 48 
hours, he had a PICC line placed for home IV antibiotics.  After 
receiving teaching on how to care for the picc he was discharged 
to home with ___ and home ___.  
 
Medications on Admission:
Truvada (tenofovir and emtricitabine)
Norvir (Ritonavir) 100mg daily
Atazanavir 300 mg daily
Sertraline 50mg daily
Buproprion 200mg SR daily
Alprazolam 1mg PRN insomnia

 
Discharge Medications:
1. Wheelchair
with elevating leg rests.
Disp # 1
Diagnosis: Right Knee infection
2. nafcillin in D2.4W 2 gram/100 mL Piggyback Sig: Two (2) grams 
Intravenous Q4H (every 4 hours) for 4 weeks: ID to manage total 
length of treatment.
Disp:*qs * Refills:*0*
3. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous Q8PM () for 3 weeks.
Disp:*21 syringe* Refills:*0*
4. bupropion HCl 100 mg Tablet Extended Release Sig: Two (2) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
5. hydrocortisone 2.5 % Cream Sig: One (1) Appl Rectal PRN (as 
needed) as needed for irritation.  
6. ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
7. sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. emtricitabine-tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
9. atazanavir 150 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
10. heparin, porcine (PF) 10 unit/mL Syringe Sig: Ten (10) ML 
Intravenous PRN (as needed) as needed for line flush.  
11. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for Pain.
Disp:*40 Tablet(s)* Refills:*0*
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO Q6H (every 6 hours) as needed for Dyspepsia.  
14. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
15. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO BID (2 times a day) as needed for Constipation.  
16. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*40 Tablet, Rapid Dissolve(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
R knee septic arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Wound Care: 

-Keep Incision dry. 

-Do not soak the incision in a bath or pool.  

-Keep pin sites clean and dry.

-Sutures/staples will be removed at your first post-operative 
visit.

 

Activity: 

-Continue to be weight bearing on your right leg.  

-You should not lift anything greater than 5 pounds. 

-Elevate Right leg to reduce swelling and pain.

-Do not remove splint/brace.  Keep splint/brace dry.

 

Other Instructions

- Resume your regular diet. 

- Avoid nicotine products to optimize healing. 

- Resume your home medications. Take all medications as 
instructed. 

- Continue taking the Lovenox to prevent blood clots.

-You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so plan ahead.  You can either have them mailed 
to your home or pick them up at the clinic located on ___. 
 We are not allowed to call in narcotic (oxycontin, oxycodone, 
percocet) prescriptions to the pharmacy.   In addition, we are 
only allowed to write for pain medications for 90 days from the 
date of surgery.

- Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.

Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Right lower extremity:  Full weight bearing, CPM 
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
Site: Right knee
Description: surgical site with staples intact, minimal serosang 
drainage. Dsd/kerlix c/d/i
Care: dsg changes gauze to dry daily

 
Followup Instructions:
___